US05728370
4-Methoxycarbonyl-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole)
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole (2.0 g, 6.98 mmol) was dissolved in dry ether (50.0 mL) in a dry, argon filled reaction flask. n-Butyllithium (3.07 mL, 2.5M in hexane) was added and the reaction mixture was stirred for 30 min. The solution was poured onto solid carbon dioxide and, after stirring overnight, the ether was filtered off. The solid residue was washed with chloroform and dried under vacuum. The crude product was mixed with potassium carbonate (0.97 g, 6.98 mmol) in dry DMF (20.0 mL) and was stirred for 1.5 h at 60° C. After cooling to ambient temperature, methyl iodide (0.435 mL, 6.98 mmol) was added. The stirring was continued overnight. The mixture was filtered, the solution evaporated and the residue was dissolved in dichloromethane and water. The organic phase was washed with water (2*30 mL), dried (Na2SO4) and evaporated to give after additional drying under vacuum a bright green-yellow crystalline pure product.

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole | 6.98 mmol, 2.0 g | CC1(SC2=C(S1)C=C1C(SC(S1)(C)C)=C2)C | C12H14S4
reactant | n-Butyllithium | 2.5M, 3.07 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | potassium carbonate | 6.98 mmol, 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.98 mmol, 0.435 mL | CI | CH3I
solvent | ether | 50.0 mL | CCOCC | C4H10O
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 4-Methoxycarbonyl-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiole) | COC(=O)C1=C2C(SC(S2)(C)C)=CC2=C1SC(S2)(C)C | C14H16O2S4
